US06207678B1
1-[2-(2-Methoxybenzoyl)imidazol-1-yl]-2-(3,4-dichlorophenyl)-4-(tetrahydropyran-2-yloxy)butane (1.1 g) (see Preparation 57) was dissolved in methanol (20 ml), Amberlyst 15 (trade mark) ion-exchange resin (0.11 g) added and the mixture stirred at room temperature for 5 days. The resin was removed by filtration through a short column of Arbacel (trade mark) filter aid and the solvent removed from the filtrate under reduced pressure to give a residue. This was chromatographed on silica gel eluting with 97:3, by volume, dichloromethane:methanol to give 3-(3,4-dichlorophenyl)-4-[2-(2-methoxybenzoyl)-imidazol-1-yl]butan-1-ol (0.31 g) as a white foam.

reactant | 1-[2-(2-Methoxybenzoyl)imidazol-1-yl]-2-(3,4-dichlorophenyl)-4-(tetrahydropyran-2-yloxy)butane | 1.1 g | COC1=C(C(=O)C=2N(C=CN2)CC(CCOC2OCCCC2)C2=CC(=C(C=C2)Cl)Cl)C=CC=C1 | C26H28Cl2N2O4
solvent | methanol | 20 ml | CO | CH4O
product | 3-(3,4-dichlorophenyl)-4-[2-(2-methoxybenzoyl)-imidazol-1-yl]butan-1-ol | 0.31 g | ClC=1C=C(C=CC1Cl)C(CCO)CN1C(=NC=C1)C(C1=C(C=CC=C1)OC)=O | C21H20Cl2N2O3
